US05283363
46.2 g (0.30 mol) of 2,4-dichloro-thiazole and 24.9 g (0.30 mol) of 3-amino-3, 3-dimethyl-1-propine are introduced into 300 ml of triethylamine. After 2.1 g (0.003 mol) of palladium(II)-bis(triphenylphosphine) dichloride, 2.28 g (0.012 mol) of copper(I) iodide and 3.2 g (0.012 mol) of triphenylphosphine have been added, the reaction mixture is refluxed for 19 hours. It is then filtered, the filtrate is concentrated under a water-pump vacuum, the residue is taken up in chloroform, and the mixture is extracted by shaking with dilute aqueous hydrochloric acid. The aqueous phase is rendered alkaline using sodium hydroxide solution and extracted several times by shaking with chloroform. After the organic phase has been dried over sodium sulphate, it is concentrated and the residue is chromatographed over silica gel (mobile phase: methylene chloride/methanol (96/4). 15.6 g (26 % of theory) of 3-amino-3, 3-dimethyl-1-(4-chloro-thiazol-2-yl)-1-propine with a melting point of 62-640° C. are obtained.

reactant | 2,4-dichloro-thiazole | 0.30 mol, 46.2 g | ClC=1SC=C(N1)Cl | C3HCl2NS
reactant | 3-amino-3, 3-dimethyl-1-propine | 0.30 mol, 24.9 g | NC(C#C)(C)C | C5H9N
reactant | triphenylphosphine | 0.012 mol, 3.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium(II) bis(triphenylphosphine) dichloride | 0.003 mol, 2.1 g | [Pd+2].[Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.012 mol, 2.28 g | [Cu]I
solvent | triethylamine | 300 ml | C(C)N(CC)CC | C6H15N
product | 3-amino-3, 3-dimethyl-1-(4-chloro-thiazol-2-yl)-1-propine | 15.6 g, 26 % | NC(C#CC=1SC=C(N1)Cl)(C)C | C8H9ClN2S
